US04980349
Preparation of 6-(2-benzoyl-4-chlorobenzenesulphonamido)-capronitrile
15 ml of redistilled triethylamine are added to 15.7 g of 4-chloro-2-benzoylbenzenesulphonyl chloride in 100 ml of anhydrous dichloromethane, and 5.6 g of 6-aminocapronitrile in 20 ml of dichloromethane are then added dropwise at 0° C.

reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-benzoylbenzenesulphonyl chloride | 15.7 g | ClC1=CC(=C(C=C1)S(=O)(=O)Cl)C(C1=CC=CC=C1)=O | C13H8Cl2O3S
reactant | 6-aminocapronitrile | 5.6 g | NCCCCCC#N | C6H12N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-(2-benzoyl-4-chlorobenzenesulphonamido)-capronitrile | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)S(=O)(=O)NCCCCCC#N | C19H19ClN2O3S
